US05334594
Reference Example 7: 2-Cyano-3-(3-fluorophenoxy)pyridine
A mixture of 33.44 g of 3-(3-fluorophenoxy)pyridine N-oxide, 64.6 ml of trimethylsilyl cyanide and 45.9 ml of triethylamine in 180 ml of acetonitrile was refluxed for 4 hours. After the reaction mixture was concentrated, 200 ml of methylene chloride and 100 ml of 2M aqueous potassium carbonate was added to the residue and the mixture was stirred for a few minutes. The organic layer separated was washed with 50 ml of water, dried over anhydrous sodium sulfate, and concentrated. The solid obtained was washed with isopropyl ether to yield 28.30 g of pale brown crystals, which were recrystallized from ethyl acetate to give slightly brown crystals, mp 92°-93° C.

reactant | 3-(3-fluorophenoxy)pyridine N-oxide | 33.44 g | FC=1C=C(OC=2C=[N+](C=CC2)[O-])C=CC1 | C11H8FNO2
reactant | trimethylsilyl cyanide | 64.6 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | triethylamine | 45.9 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | 2-Cyano-3-(3-fluorophenoxy)pyridine | 28.30 g | C(#N)C1=NC=CC=C1OC1=CC(=CC=C1)F | C12H7FN2O
